US05252575
b) N-[3-(Isopropoxymethoxy)propoxy]phthalimide
A mixture of [3-(isopropoxymethoxy)propanol (5.3 g, 35.8 mmol), N-hydroxyphthalimide (5.83 g, 35.8 mmol) and triphenylphosphine (10.48 g, 40 mmol) in dry tetrahydrofuran (75 ml) at 0°-5° C.; was treated with a solution of diethyl azodicarboxylate (6.96 g, 40 mmol) in dry tetrahydrofuran (15 ml) over 15 min. The reaction mixture was stirred at ambient temperature for 18 hr. The solvent was removed in vacuo and the residue was dissolved in diethyl ether (100 ml) and cooled to 5° C. for 2 hr. The solid was filtered off, the filtrate evaporated in vacuo, and the residue purified by column chromatography on silica eluting with hexane:ethyl acetate (70:30) to give the title compound as an oil (9.3 g, 88%). νmax (Film) 2980, 2940, 2900, 1740, 1475 and 1380 cm-1 ; δH (CDCl3) 1.17 (3H, s, CH3), 1.19 (3H, s, CH3), 2.06 (2H, quintet, J=6.3 Hz CH2CH2CH2), 3.77 (2H, t, J=6.3 Hz, CH2OCH2OCH(CH3)2), 3.88 (1H, septet, J=6.3 Hz, OCH(CH3)2), 4.32 (2H, t, J=6.3 Hz CH2ON), 4.73 (2H, s, OCH2O), 7.78 (4H, m, ArH). (Found: C, 16.53; H, 6.59; N, 4.71%: C15H19NO5 requires: C, 16.42; H, 6.52; N, 4.77%).

reactant | 3-(isopropoxymethoxy)propanol | 35.8 mmol, 5.3 g | C(C)(C)OCOCCCO | C7H16O3
reactant | N-hydroxyphthalimide | 35.8 mmol, 5.83 g | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | triphenylphosphine | 40 mmol, 10.48 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 40 mmol, 6.96 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | N-[3-(Isopropoxymethoxy)propoxy]phthalimide | 9.3 g, 88% | C(C)(C)OCOCCCON1C(C=2C(C1=O)=CC=CC2)=O | C15H19NO5
